US09163020B2
See FIG. 19(a). To a stirred solution of 1-((2-methoxy-5-(trifluoromethyl)pyridin-3-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (60 mg, 0.177 mmol) in dichloromethane (5 mL) were added 2-fluoroethan-1-amine hydrochloride (26 mg, 0.26 mmol), triethylamine (0.053 g, 0.531 mmol) and T3P (0.33 g, 0.531 mmol) and reaction mixture was stirred for 16 h at room temperature. Then the reaction mixture was poured in to water and extracted with dichloromethane. The reaction mixture was poured into water and extracted with dichloromethane. The combined organic layer was washed with water,brine and solvent was evaporated under reduced pressure. The crude product was purified by silica gel column chromatography using silica gel column chromatography to afford N-(2-fluoroethyl)-1-((2-methoxy-5-(trifluoromethyl)pyridin-3-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide as a white solid. Yield: 15 mg. (22.3%). ES+MS m/z: 397. 1H NMR (400 MHz, DMSO-d6): δ ppm 3.66-3.70 (m, 2H), 3.72-3.76 (m, 2H), 4.00 (s, 3H), 4.50-4.52 (m, 2H), 4.62-4.64 (m, 2H), 5.76 (s, 2H), 7.30-7.33 (m, 1H), 7.92 (s, 1H), 8.11 (d, 1H, J=8.3 Hz), 8.32 (s, 1H), 8.50-8.52 (m, 1H), 8.66-8.67 (m, 1H), 8.94 (t, 1H, J=5.6 Hz).

reactant | 1-((2-methoxy-5-(trifluoromethyl)pyridin-3-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.177 mmol, 60 mg | COC1=NC=C(C=C1CN1C=C(C2=NC=CC=C21)C(=O)O)C(F)(F)F | C16H12F3N3O3
reactant | 2-fluoroethan-1-amine hydrochloride | 0.26 mmol, 26 mg | Cl.FCCN
reactant | triethylamine | 0.531 mmol, 0.053 g | C(C)N(CC)CC | C6H15N
reactant | T3P | 0.531 mmol, 0.33 g | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(2-fluoroethyl)-1-((2-methoxy-5-(trifluoromethyl)pyridin-3-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | FCCNC(=O)C1=CN(C=2C1=NC=CC2)CC=2C(=NC=C(C2)C(F)(F)F)OC | C18H16F4N4O2
